US07361668B2
A solution of tert-BuOK (2.41 g, 21.52 mmol) in t-BuOH/DME 1:2 (24 ml) was added at 0° C. to a solution of 8-thiabicyclo[3.2.1]octan-3-one (1.53 g, 10.75 mmol) and tosylmethyl isocyanide (2.3 g, 11.83 mmol) in DME (20 ml). The solution was stirred for 3 hours at room temperature. After addition of ether, the mixture was washed with a saturated aqueous NaHCO3 solution, dried over MgSO4 and evaporated. After purification by chromatography on silica gel (hexane/AcOEt 85/15), 8-thiabicyclo[3.2.1]octane-3-carbonitrile was obtained as a colorless oil (1.03 g, 63%).

reactant | tert-BuOK | 21.52 mmol, 2.41 g | C(C)(C)(C)O[K]
reactant | 8-thiabicyclo[3.2.1]octan-3-one | 10.75 mmol, 1.53 g | C12CC(CC(CC1)S2)=O | C7H10OS
reactant | tosylmethyl isocyanide | 11.83 mmol, 2.3 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | ether | CCOCC | C4H10O
solvent | t-BuOH DME | 24 ml | CC(C)(C)O.COCCOC
solvent | DME | 20 ml | COCCOC | C4H10O2
product | 8-thiabicyclo[3.2.1]octane-3-carbonitrile | C12CC(CC(CC1)S2)C#N | C8H11NS
